US07078428B2
N-[(4,7-Difluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 2.68 g of potassium tert-butoxide, 2.74 g of guanidinium chloride and 1.49 g of ethyl (4,7-difluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours and is then filtered. The filtrate is taken up in 80 cm3 of water and 120 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is separated out and the aqueous phase is extracted twice with 120 cm3 of ethyl acetate. The organic extracts are combined, dried over magnesium 5 sulfate, filtered and concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 40° C. The evaporation residue is purified by chromatography under argon pressure (50 kPa) on a column of silica gel (particle size 15-40 μm), eluting with successive mixtures of dichloromethane/methanol (95/5 and then 90/10 by volume). The fractions comprising the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. The residue is taken up in diethyl ether, triturated, filtered and then dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 0.16 g of N-[(4,7-difluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]-quanidine is thus obtained in the form of a pale yellow solid melting at 212° C. Mass spectrum: DCI: m/e 325 (M+H)+, m/e 263 (base peak).

reactant | potassium tert-butoxide | 2.68 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 2.74 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (4,7-difluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 1.49 g | FC1=C2C(N(C(C2=C(C=C1)F)CC(=O)OCC)CC(C)C)=O | C16H19F2NO3
product | N-[(4,7-Difluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | FC1=C2C(N(C(C2=C(C=C1)F)CC(=O)NC(=N)N)CC(C)C)=O | C15H18F2N4O2
